### PR TITLE
Add a RealsE multirule

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Avoid writing `rewrite !(RplusE, RminusE, RmultE,...)`.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers (c.f. https://github.com/math-comp/analysis/pull/1828 )

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: reals_stdlib/Rstruct.v [hunk 1]
```diff
@@ -539,6 +539,10 @@ Qed.
 Lemma factE n : fact n = n`!.
 Proof. by elim: n => //= n ih; rewrite factS mulSn ih. Qed.
 
+Definition RealsE := (RplusE, RminusE, RmultE, RoppE, RinvE, RdivE, INRE,
+  Pos_to_natE, IZRposE, RsqrtE, RpowE, RmaxE, RminE, RabsE, RdistE,
+  sum_f_R0E, factE).
+
```
Comment (affeldt-aist) [inline reals_stdlib/Rstruct.v:556]: Don't you need conversion between 0's and 1's? 
In InfoTheo we have been using @t6s :
```coq
Definition coqRE :=
  (R0E, R1E, INRE, IZRposE,
    RinvE, RoppE, RdivE, RminusE, RplusE, RmultE, RpowE, RsqrtE).
```

Comment (proux01) [reply reals_stdlib/Rstruct.v:556]: Indeed, would be nice, but where are those `R0E` and `R1E`? I can't find them in Analysis.

Comment (t6s) [reply reals_stdlib/Rstruct.v:556]: they are infotheo things: https://github.com/affeldt-aist/infotheo/blob/master/lib/coqRE.v

Comment (proux01) [reply reals_stdlib/Rstruct.v:556]: Thanks, let's backport them here then

Comment (affeldt-aist) [reply reals_stdlib/Rstruct.v:556]: Done.

**Comment by proux01** [comment]
Thanks!
